US07790709B2
Preparation of (E)-3-(6-Amino-5-piperidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride
A suspension of 3-(6-amino-5-piperidin-1-ylmethyl-pyridin-3-yl)acrylic acid tert-butyl ester (250 mg, 0.79 mmol) in CH2Cl2 (3 mL) was treated with TFA (2 mL). After stirring at room temperature under N2 for 45 min, the solution was concentrated. The resulting oil was treated with anhydrous HCl in dioxane (10 mL, 4.0 M) and then sonicated until the oil was converted to a fine off-white solid. After stirring under N2 for 20 min, the solid was isolated by filtration, washed with Et2O, and dried under vacuum for several hours to give the title compound (282 mg, quantitative) as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.6 (br s, 1H), 8.53 (d, J=2.1 Hz, 1H), 8.39-8.28 (m, 3H), 7.53 (d, J=15.0 Hz, 1H), 6.46 (d, J=15.0 Hz, 1H), 4.33 (s, 2H), 3.43-3.35 (m, 2H), 2.97 (s, 2H), 1.79-1.69 (m, 5H), 1.35 (s, 1H).

reactant | 3-(6-amino-5-piperidin-1-ylmethyl-pyridin-3-yl)acrylic acid tert-butyl ester | 0.79 mmol, 250 mg | C(C)(C)(C)OC(C=CC=1C=NC(=C(C1)CN1CCCCC1)N)=O | C18H27N3O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(6-Amino-5-piperidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride | 282 mg | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCCCC1 | InChI=1S/C14H19N3O2.ClH/c15-14-12(10-17-6-2-1-3-7-17)8-11(9-16-14)4-5-13(18)19;/h4-5,8-9H,1-3,6-7,10H2,(H2,15,16)(H,18,19);1H/b5-4+;
